US05260293
Thionyl chloride (1.5 g, 12.6 mmol) was added to a rapidly stirred solution of 3-(2-pyrazinyl)-1-azabicyclo[ 2.2.1]heptan-3-ol (0.5 g, 2.6 mmol) in dichloromethane (30 ml) at room temperature. The solution was stirred for 1 h, heated at 60° C. for 0.5 h, and then cooled to room temperature, before adding water (20 ml) and basifying with potassium carbonate. Extraction into dichloromethane (3×75 mls), drying (Na2SO4) and chromatography of the residue remaining after removal of solvent through alumina, using ethyl acetate as eluant, gave 3-chloro-3-(2-pyrazinyl)-1-azabicyclo[2.2.1]heptane as a pale yellow oil (0.18 g); m/e 209 (M+ of free base); δ (360 MHz,CDCl3) 0.84-0.92(1H,m,CH of CH2); 1.58-1.67(1H,m,CH of CH2); 2.42-2.48(1H,m,CH of CH2 --N); 2.69-2.72(1H,m,CH of CH2 --N); 2.78-2.86(1H,m,CH of CH2 --N); 3.22-3.24(1H,d, J=4.5 Hz, CH-bridgehead); 3.42-3.49(2H,m,2×CH of CH2 --N); 4.13(1H,dd J=3 and 14 Hz, CH of CH2); 8.48(2H,s,pyrazine-H); 8.91(1H,s,pyrazine-H).

reactant | Thionyl chloride | 12.6 mmol, 1.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(2-pyrazinyl)-1-azabicyclo[ 2.2.1]heptan-3-ol | 2.6 mmol, 0.5 g | N1=C(C=NC=C1)C1(CN2CCC1C2)O | C10H13N3O
reactant | water | 20 ml | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-chloro-3-(2-pyrazinyl)-1-azabicyclo[2.2.1]heptane | 0.18 g | ClC1(CN2CCC1C2)C2=NC=CN=C2 | C10H12ClN3
